US05864039
4-(Aminomethyl)piperidine (137 g) was dissolved in toluene (1200 ml), and benzaldehyde (127 g) was added, and the mixture was stirred at refluxing temperature for 6.5 hr. The reaction mixture was cooled to room temperature, and di-tert-butyl dicarbonate (288 g) was dropwise added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and 1N potassium hydrogensulfate (1200 ml) was added to the obtained residue, which was followed by stirring at room temperature for 4 hr. The reaction mixture was washed 3 times with isopropyl ether and made alkaline with 10% sodium hydroxide solution. The mixture was extracted with chloroform. The organic layer was washed with saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure to give 236.5 g of 4-aminomethyl-1-(tert-butoxycarbonyl)piperidine.

reactant | 4-(Aminomethyl)piperidine | 137 g | NCC1CCNCC1 | C6H14N2
reactant | benzaldehyde | 127 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | di-tert-butyl dicarbonate | 288 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-aminomethyl-1-(tert-butoxycarbonyl)piperidine | 236.5 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
